US07534797B2
4-Methyl-2-phenyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazoline
A flask containing dry 7-chloro-4-methyl-2-phenylquinazoline under Ar was charged with KOAc (80 mg, 0.81 mmol), bis(pinacolato)diboron (151 mg, 0.60 mmol) and Pd[P(C6H11)3]2 (Strem, 22 mg, 0.03 mmol) (the catalyst was added rapidly minimizing exposure to air). A reflux condenser was attached and the set-up was quickly evacuated and refilled with Ar (3×). Anh. 1,4-dioxane was added via syringe (2 mL) and the reaction mixture was stirred at rt for 30 min (brown solution) and later heated at 80° C. for 3 d. The reaction was evaporated to dryness under high vacuum at 35° C., purified by flash chromatography (silica gel, 100:0.5-10:1 hexanes:EtOAc) affording the title compound as a light yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.70-8.56 (m, 2H), 8.02 (d, J=8.4 Hz, 1H), 7.99 (dd, J=1.2 Hz, 8.0 Hz, 1H), 7.58-7.43 (m, 4H), 2.99 (s, 3H), 1.38 (s, 12H).

reactant | 7-chloro-4-methyl-2-phenylquinazoline | ClC1=CC=C2C(=NC(=NC2=C1)C1=CC=CC=C1)C | C15H11ClN2
reactant | KOAc | 0.81 mmol, 80 mg | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.60 mmol, 151 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 4-Methyl-2-phenyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazoline | CC1=NC(=NC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C21H23BN2O2
